US08198448B2
b. 2-chloro-5-(2-methoxyethoxy)nicotinonitrile
In a 100 mL round bottom flask under N2 were dissolved triphenylphosphine (19 g, 73 mmol), 2-chloro-5-hydroxynicotinonitrile (7.5 g, 49 mmol), and 2-methoxyethanol (5.7 ml, 73 mmol) in THF (130 mL) followed by a slow addition of DEAD (27 ml, 68 mmol), and then stirred at room temperature. After 2 h the reaction showed full conversion to the desired compound. The crude mixture was purified by MPLC eluting with 100% DCM to 90% DCM: 10% MeOH to afford 2-chloro-5-(2-methoxyethoxy)nicotinonitrile (6.46 g, 63% yield) as a tan solid.

reactant | triphenylphosphine | 73 mmol, 19 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloro-5-hydroxynicotinonitrile | 49 mmol, 7.5 g | ClC1=C(C#N)C=C(C=N1)O | C6H3ClN2O
reactant | 2-methoxyethanol | 73 mmol, 5.7 ml | COCCO | C3H8O2
reactant | DEAD | 68 mmol, 27 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 2-chloro-5-(2-methoxyethoxy)nicotinonitrile | ClC1=C(C#N)C=C(C=N1)OCCOC | C9H9ClN2O2
